* source SOAL1
R_R1         N00310 N00283  4k  
R_R2         0 N00565  2k  
C_C1         0 N00348  2u  
L_L1         N00283 N00565  50mH  
V_V1         N00310 0  
+SIN 0 8 159.23Hz 0 0 50
X_F1    N00283 N00348 0 N00565 SCHEMATIC1_F1 

.subckt SCHEMATIC1_F1 1 2 3 4  
F_F1         3 4 VF_F1 0.5
VF_F1         1 2 0V
.ends SCHEMATIC1_F1
