* source SOAL2
R_R1         VIN N00283  4k  
R_R2         0 VOUT  2k  
C_C1         0 N00348  2u  
L_L1         N00283 VOUT  50mH  
V_V2         VIN 0 DC 0Vdc AC 8Vac 
X_F1    N00283 N00348 0 VOUT SCHEMATIC1_F1 

.subckt SCHEMATIC1_F1 1 2 3 4  
F_F1         3 4 VF_F1 0.5
VF_F1         1 2 0V
.ends SCHEMATIC1_F1
